US04886802
STEP A: 2-[[2-(5-methoxy-1H-indol-3-yl)-ethyl]-amino]-acetonitrile
Using the procedure of Step A of Example 25, 25 g of 5-methoxytryptamine, 10 ml of chloroacetonitrile and 37 ml of triethylamine were reacted to obtain 20.9 g of the expected product.

reactant | 5-methoxytryptamine | 25 g | COC1=CC=C2NC=C(CCN)C2=C1 | C11H14N2O
reactant | chloroacetonitrile | 10 ml | ClCC#N | C2H2ClN
solvent | triethylamine | 37 ml | C(C)N(CC)CC | C6H15N
product | 2-[[2-(5-methoxy-1H-indol-3-yl)-ethyl]-amino]-acetonitrile | 20.9 g | COC=1C=C2C(=CNC2=CC1)CCNCC#N | C13H15N3O
